US07282497B2
tert-Butyl(2S)-2-[(3S)-3-amino-2-oxopyrrolidin-1-yl]propanoate
A mixture of tert-butyl(2S)-2-((3S)-3-{[(benzyloxy)carbonyl]amino}-2-oxopyrrolidin-1-yl)propanoate (2.82 g), 10% palladium on carbon (0.3 g) and ethanol (150 ml) was stirred under an atmosphere of hydrogen for 18 h. The reaction mixture was filtered through Harbolite™ and the filtrate was concentrated under reduced pressure to give the title compound (1.8 g) as a pale yellow oil.

reactant | tert-butyl(2S)-2-((3S)-3-{[(benzyloxy)carbonyl]amino}-2-oxopyrrolidin-1-yl)propanoate | 2.82 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@H](C(=O)OC(C)(C)C)C)=O | C19H26N2O5
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | tert-Butyl(2S)-2-[(3S)-3-amino-2-oxopyrrolidin-1-yl]propanoate | 1.8 g | N[C@@H]1C(N(CC1)[C@H](C(=O)OC(C)(C)C)C)=O | C11H20N2O3
